US05679803
Titanium trichloride, 7.9 g (51.3 mmol), was weighed into a round-bottomed flask in a glove bag under an argon atmosphere. Freshly distilled tetrahydrofuran (from LAH), 60 mL, was added quickly under argon flow. Care should be taken, as this addition can be exothermic. The purple suspension was stirred vigorously so as to break up the solid adhering to the walls of the flask. After 15 minutes, zinc dust, 5.2 g, was added all at once under argon with continued stirring. A moderate exothermresulted in a reddish-brown mixture which did not contain black suspended solids. After 15 minutes stirring, the triethylamine, 11 mL, was added with exclusion of air. The mixture was then refluxed for 2 hours. A solution of 2-adamantanone, 3.0 g (20 mmol), and 2,2,2-trifluoroethyl-4-chloro-3-methoxybenzoate, 2.6 g (10 mmol) in dry THF, 30 mL, was added dropwise to the refluxing brown mixture over approximately 65 minutes. Reflux was continued overnight for 16 hours. The solvents were rotary evaporated from the cooled reaction mixture to yield a brown-black gum. This gum was triturated with hexanes, 100 mL, and ethyl acetate, 20 mL. The yellow-orange supernate was decanted and the trituration procedure was repeated. After 10 minutes of agitation, triethylamine and methanol, 5 mL each, were added. The gum began to stiffen and eventually became a lumpy solid. The solid was broken up and the supernate decanted. One final trituration was accomplished with 20% ethyl acetate-hexanes. The combined decanted supernates were rotary evaporated to a light yellow, semisolid paste. The mixture was treated with hot hexanes, 50 mL, and filtered warm to remove some insolubles. The residue obtained after rotary evaporation of the filtrate was applied to a 2.1×20 cm column of activity I aluminum oxide as a slurry in a small amount of warm hexanes. The column was eluted with hexanes to obtain adamantylidene adamantane. The elution was continued with 10% dichloromethane-hexanes to obtain an oil which contained two major mid Rf, UV-active components. The oil was taken up in a small amount of hot hexanes. A crystalline, colorless solid, weighing 0.71 g and having a melting point of 108°-112° C., precipitated out upon cooling.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-adamantanone | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | 2,2,2-trifluoroethyl-4-chloro-3-methoxybenzoate | FC(COC(C1=CC(=C(C=C1)Cl)OC)=O)(F)F | C10H8ClF3O3
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
catalyst | zinc | [Zn] | Zn
product | adamantylidene adamantane | C12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H28
